US09085555B2
(3-Acetyl-6-methoxy-pyrrolo[2,3-b]pyridin-1-yl)-acetic acid
was prepared using similar procedures as described for the synthesis of (3-acetyl-pyrrolo[2,3-c]pyridin-1-yl)-acetic acid in Scheme A15 from 1-(6-methoxy-1H-pyrrolo[2,3-b]pyridin-3-yl)-ethanone. MS (UPLC/MS): 249.2 [M+H]+, 497.3 [2M+H]+, 519.3 [2M+Na]+, 247.1 [M−H]−, 293.2 [M+HCOO]−, 495.3 [2M+HCOO]−; tR (HPLC conditions f): 1.55 min. 1H-NMR (400 MHz, DMSO): δ (ppm): 12.3 (bs, 1H), 8.33 (d, 1H), 8.21 (s, 1H), 6.70 (d, 1H), 3.89 (s, 3H), 3.32 (s, 2H), 2.43 (s, 3H).

reactant | (3-acetyl-pyrrolo[2,3-c]pyridin-1-yl)-acetic acid | C(C)(=O)C1=CN(C2=CN=CC=C21)CC(=O)O | C11H10N2O3
reactant | 1-(6-methoxy-1H-pyrrolo[2,3-b]pyridin-3-yl)-ethanone | COC1=CC=C2C(=N1)NC=C2C(C)=O | C10H10N2O2
product | (3-Acetyl-6-methoxy-pyrrolo[2,3-b]pyridin-1-yl)-acetic acid | C(C)(=O)C1=CN(C2=NC(=CC=C21)OC)CC(=O)O | C12H12N2O4
